Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
Vaginal bleeding for 2 days
 
Major Surgical or Invasive Procedure:
2 units of PRBCs
Dialysis
 
History of Present Illness:
___ year old female ___ End Stage Renal Disease (ESRD) on 
hemodialysis s/p right nephrectomy for renal cancer 
(metastatic), CAD s/p 4v CABG who presents with vaginal bleeding 
x 2 days.

Bleeding started ___ morning, BRB, no clots, used pads to 
control bleeding all day, soaked through at least 10. Stopped in 
pm went to sleep, started again on ___ morning. Denies HA, 
dizziness, lightheadedness, palpitations. Came to ED at ___ 
___ vaginal mass was noted on exam. Per report: 
Hemoglobin/hematocrit was ___ down from ___ on ___, Cr 1.9 
(baseline 1.5), INR 2.3. Given 3 units FFP, 10mg vit K IV, 1 
unit PRBCs. VSS with HR ___ and sBPs 120s. Transferred to ___ 
for further workup of vaginal mass.

On arrival to the ED VS were T 97.8 HR 78 BP 134/54 RR 16 SpO2 
100% 2L. Exam notable for fungating, friable mass in the vaginal 
vault, possibly extending from the cervix. Hct was 22.8, stable 
from her pre transfusion hct at ___. She was type and 
crossed for four units of PRBCs, but did not have a transfusion. 
Pelvic U/S showed degenerating calcified fibroids, enlarged left 
ovary, concerning for malignancy though it was a limited study 
as the patient refused a transvaginal U/S. Gynecology was 
consulted and recommended admission to medicine, with gyn-onc 
consult and pelvic MRI. VS on transfer were T 98.1po HR 85 BP 
116/47 HR 16 SpO2 97% ra.

On arrival to the floor, patient is comfortable with no 
complaints. She has minimal bleeding from the vagina, and is 
mostly anxious about the MRI. 
 
Past Medical History:
PMH: 
Renal CA: metastases to bone, thyroid, had nephrectomy, on HD, 
s/p radiation
CAD/ CABG
HTN
Hypercholesterolemia
NIDDM
Hypothyroidism
Anxiety

PSH: 
1. CABG ___
2. Right nephrectomy
3. Right hemithyroidectomy
 
Social History:
___
Family History:
Significant for DM, CAD, no cancers nor gallstones.

 
Physical Exam:
Admission Exam:

VS: 96.5 138/58 84 18 99/ra
GENERAL: lying in bed, NAD
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.
NECK: Supple, no thyromegaly, no JVD, no carotid bruits.
HEART: RRR, ___ SEM radiates to carotids, abdomen
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored.
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.
SKIN: No rashes or lesions.
LYMPH: No cervical LAD.
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout. 

Discharge Exam:
Vital signs stable
GENERAL: no acute distress
HEART: Regular rate and rhythm, soft systolic ejection murmur
LUNGS:Clear to auscultation bilaterally
ABDOMEN: Soft, non distended, appropriate tenderness to 
palpation, +bowel sounds, laparoscopic incisions 
clean/dry/intact. No rebound/guarding.
EXTREMITIES: non tender/non edmeatous. Chronic skin changes
GU: vaginal packing removed with good hemostasis noted 
 
Pertinent Results:
___ 02:00PM BLOOD WBC-3.8* RBC-2.64*# Hgb-8.4* Hct-22.6* 
MCV-85 MCH-31.9# MCHC-37.3* RDW-15.1 Plt ___
___ 02:00PM BLOOD Neuts-69.7 ___ Monos-3.9 Eos-1.0 
Baso-0.5
___ 02:00PM BLOOD ___ PTT-22.2 ___
___ 02:00PM BLOOD Glucose-168* UreaN-38* Creat-3.8*# Na-139 
K-5.1 Cl-104 HCO3-25 AnGap-15
___ 07:45AM BLOOD Calcium-7.1* Phos-5.0*# Mg-2.1
___ 02:50PM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-NEGATIVE
___ 02:50PM BLOOD HCV Ab-NEGATIVE
___ 05:30AM BLOOD WBC-5.4 RBC-3.02* Hgb-9.4* Hct-25.8* 
MCV-85 MCH-31.1 MCHC-36.4* RDW-14.8 Plt ___
___ 05:30AM BLOOD WBC-5.4 RBC-3.02* Hgb-9.4* Hct-25.8* 
MCV-85 MCH-31.1 MCHC-36.4* RDW-14.8 Plt ___
___ 07:25AM BLOOD WBC-4.3 RBC-2.98* Hgb-9.1* Hct-25.2* 
MCV-84 MCH-30.5 MCHC-36.1* RDW-14.8 Plt ___
___ 02:31PM BLOOD WBC-6.6 RBC-3.11* Hgb-9.5* Hct-27.1* 
MCV-87 MCH-30.5 MCHC-35.1* RDW-14.5 Plt ___
___ 05:55AM BLOOD WBC-6.3 RBC-3.02* Hgb-9.2* Hct-26.1* 
MCV-87 MCH-30.6 MCHC-35.3* RDW-14.3 Plt ___

___ 06:10AM BLOOD ___ PTT-21.5* ___
___ 05:30AM BLOOD Glucose-84 UreaN-41* Creat-4.0*# Na-140 
K-4.2 Cl-103 HCO3-25 AnGap-16
___ 07:25AM BLOOD Glucose-114* UreaN-30* Creat-3.1* Na-140 
K-3.6 Cl-101 HCO3-28 AnGap-15
___ 02:31PM BLOOD Glucose-189* UreaN-28* Creat-3.5* Na-138 
K-4.0 Cl-100 HCO3-28 AnGap-14
___ 05:55AM BLOOD Glucose-99 UreaN-33* Creat-3.9* Na-139 
K-4.5 Cl-99 HCO3-27 AnGap-18

Pelvic US ___:
IMPRESSION:
1. The patient deferred transvaginal examination. Endometrium 
not
definitively visualized though area thought to represent 
endometrium appears homogeneous and measures 3 mm.
2. Significantly enlarged left ovary with a 2.3 cm simple cyst. 
Given
postmenopausal state, this is concerning for malignancy. Could 
be better
evaluated with a transvaginal examination if patient amenable at 
later date or possibly MRI. Recommend GYN consult/referral.

Pelvic MRI ___:
IMPRESSION:
1. Solid-appearing ovarian mass measuring 2.7 x 2.2 cm in the 
left ovary.
Vascularity not assessed without intravenous contrast.
2. 2.2-cm cyst in left ovary.
3. Fibroid uterus.
4. Sigmoid diverticulosis.
5. 4-cm heterogenous lesion in the right iliac bone may 
represent a
previously treated lesion; correlation with prior imaging would 
be extremely helpful.
6. Heterogenous soft tissue deposit adjacent to the coccyx 
incompletely
evaluated on this study but could represent either a resolving 
hematoma or a hemorrhagic metastasis. Again correlation with 
previous imaging is essential.

 
Brief Hospital Course:
Ms. ___ is a ___ year olf femaleinitially admitted to the 
Internal Medicine service at ___ for management of ESRD and 
further work up of a vaginal mass/bleeding. Gyn Oncology was 
consulted regarding the vaginal mass and she subsequently 
underwent an examination under anesthesia, laparoscopic
bilateral salpingo-oophorectomy by Gyn Onc and excision of 
suburethral mass by Urology. Please see Dr. ___ 
report for further details regarding the procedure. Ms. 
___ brief hospital course is as follows:

# Vaginal Mass/Bleeding: Patient was monitored with q6 Hct 
initially, which were stable in the mid to high ___ after 
transfusion of 1U of PRBCs. Patient had no acute episodes of 
bleeding. Imaging studies revealed a left ovary with a 2.3 cm 
simple cyst but did not further characterize the vaginal mass. A 
CA-125 was checked and found to be 10. Through consultation with 
the gyn/onc team, the patient was prepped for a biopsy under 
anesthesia to better characterize the mass. On ___, Ms. 
___ underwent an exam under anesthesia which revealed a 
posterior urethral mass which was resected by urology. The 
Gyn-Oncology team performed a laparoscopic
bilateral salpingo-oophorectomy. Final pathology was pending at 
discharge. Ms. ___ will follow up with her outpatient 
oncologist and Dr. ___. 

# Metastatic RCC s/p nephrectomy: Pa  Following discussions with 
the hematology and oncology team, the decision was made to hold 
the patient's Votrient (as prescribed by outpatient oncologist) 
given the side effect of bleeding.  Efforts were also made to 
obtain Votrient from the patient's nephew. 

# CAD s/p CABG: was stable during admission on home regimen. 
Held ASA given bleed.  We continued Amlodipine, Hydralazine, 
Metoprolol, Crestor, although hydralazine dose was reduced. 
Despite previous INR report, following discussion with 
outpatient provider, Dr. ___, patient is not on coumadin.

# DM: initially hypoglycemic because of oral hypoglycemics in 
renal failure.  Patient was continued on a diabetic diet with 
ISS.

# Hypothyroidism: Stable, continued levothyroxine while 
inpatient. 

 
Medications on Admission:
- Levothyroxine 100 mcg PO DAILY
- Amlodipine 10 mg PO DAILY
- Metoprolol Tartrate 100 mg PO BID
- Hydralazine 75 mg PO tid
- Glyburide 5 mg PO DAILY
- Crestor 10 mg PO DAILY
- ASA 81mg PO daily 
- Votrient
 
Discharge Medications:
1. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO QAM (once 
a day (in the morning)).  
2. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
Tablet(s) 
3. metoprolol tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
4. rosuvastatin 5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
5. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
6. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain: Each tablet has 325mg of 
acetaminophen. Do not take over 4000mg in 24 hours.
Disp:*30 Tablet(s)* Refills:*0*
7. hydralazine 25 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
8. calcium carbonate 500 mg calcium (1,250 mg) Tablet Sig: One 
(1) Tablet PO four times a day for 3 days: Take with meals .
Disp:*12 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Urethral mass, Ovarian mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for further evaluation of a vaginal mass. This 
was removed in the operating room. Because of the location of 
the mass, we needed to place a catheter in your bladder to let 
the area heal. This should be removed on ___ by your primary 
care doctor at 9:30 AM.
You also were found to have a mass on your left ovary. This was 
removed laparoscopically through small incisions on your 
abdomen. We will not have the pathology results for several 
days. 

You were continued on dialysis while here. The nephrologists 
would like for you take calcium supplementation until you follow 
up with your nephrologist on ___. You should continue this 
medication, and make sure your home dialysis doctor knows about 
it. 

You were not given Votrient while inpatient due to bleeding. Do 
not take your Votrient until you follow up with your oncologist, 
who will decide when to restart it. 

Medication changes:
You were previously taking Hydralazine 75mg every 8 hours, you 
will now be taking Hydralazine 25 mg every 8 hours. Please 
discuss this further with your primary care physician.
You were previously taking Votrient. Do not take this medication 
until you discuss it further with your oncologist. 
 
Followup Instructions:
___